US08466289B2
Synthesis of Intermediate 8-Amino-7-(2-fluoro-4-iodo-phenylamino)-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one (I-27d)
Using the same reaction conditions and workup as described for the preparation of Intermediate (I-19f), 7-(2-fluoro-4-iodo-phenylamino)-8-nitro-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one (0.08 g, 0.181 mmol) in ethanol (2 mL) was reacted with SnCl2.H2O (0.12 g, 0.541 mmol) and concentrated HCl (0.5 mL) to afford 0.08 g of crude product which was used in the next step without further purification. LCMS: 59%, m/z=403.9 (M+1).

reactant | 7-(2-fluoro-4-iodo-phenylamino)-8-nitro-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one | 0.181 mmol, 0.08 g | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1)=O)CCS2)[N+](=O)[O-] | C13H9FIN3O3S
reactant | SnCl2.H2O | 0.541 mmol, 0.12 g | Cl[Sn]Cl.O
reactant | HCl | 0.5 mL | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 8-Amino-7-(2-fluoro-4-iodo-phenylamino)-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one | 0.08 g | NC1=C2N(C(C=C1NC1=C(C=C(C=C1)I)F)=O)CCS2 | C13H11FIN3OS
